US04339449
To a solution of benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-chloroacetate (3.60 g.) in N,N-dimethylformamide (6 ml.) was added sodium azide (384 mg.) at 0° C., and the mixture was stirred at 0° C. for 50 minutes. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed twice with water and an aqueous solution of sodium chloride, dried over magnesium sulfate, and then evaporated to leave an oil (3.60 g.), which was chromatographed on silica gel (36 g.) with chloroform as an eluent to give an oil (1.71 g.) of benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxy-carbonylthio)-2-oxo-1-azetidinyl]-2-azidoacetate.

reactant | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-chloroacetate | 3.60 g | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)Cl)=O | C23H20Cl4N2O7S
reactant | sodium azide | 384 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxy-carbonylthio)-2-oxo-1-azetidinyl]-2-azidoacetate | 1.71 g | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])=O | C23H20Cl3N5O7S
